US07253165B2
Synthesis of benzyl-{2-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-ethyl}-amine (Scheme III, Compound 1b)
The title compound is prepared from a mixture of 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole, benzylamine, potassium carbonate, potassium iodide and 4% aqueous acetonitrile essentially as described above in Example 20B, except that the reaction mixtures were poured directly onto a column and eluted with a step gradient consisting of dichloromethane and 5% methanol in dichloromethane. Purity by LC/MS=77%, [M+H]+=363.

reactant | 3-[4-(2-bromo-ethoxy)-phenyl]-6-fluoro-benzo[d]isoxazole | BrCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C15H11BrFNO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | benzyl-{2-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-ethyl}-amine | C(C1=CC=CC=C1)NCCOC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)F | C22H19FN2O2
